US07390809B2
Step D: 7-N-(tert-Butoxycarbonyl)-8-([1,2,4]triazol-4-ylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
To a solution of 47 mg (0.683 mmol) of [1,2,4]triazole in 1.0 mL of DMF was added 189 mg (1.365 mmol) of potassium carbonate. The mixture was heated at 50° C. for 15 min. To this was added 182 mg (0.455 mmol) of 7-N-(tert-butoxycarbonyl)-8-(methanesulfonyloxymethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine. The mixture was stirred at 50° C. for 14 h. DMF was removed in vacuo and the residue was partitioned between ethyl acetate and water. The aqueous phase was extracted with three portions of ethyl acetate. The combined organics were dried over magnesium sulfate and concentrated to give 107 mg of an orange oil. The mixture was eluted on a preparative TLC plate (silica gel, 50% ethyl acetate/hexane). The plate was scraped and the product eluted from the silica gel with 80:15:1 chloroform/methanol/ammonium hydroxide to give the title compound.

reactant | [1,2,4]triazole | 0.683 mmol, 47 mg | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 1.365 mmol, 189 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-N-(tert-butoxycarbonyl)-8-(methanesulfonyloxymethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 0.455 mmol, 182 mg | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)COS(=O)(=O)C | C13H19F3N4O5S
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 7-N-(tert-Butoxycarbonyl)-8-([1,2,4]triazol-4-ylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 107 mg | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)CN2C=NN=C2 | C14H18F3N7O2
